US04931444
To a stirred mixture of 17.2 parts of phenyl [4-[4-(4-methoxy-3,5-dimethylphenyl)-1-piperazinyl]phenyl]carbamate, 225 parts of N,N-dimethylformamide and 9.1 parts of N,N-diethylethanamine were added 9.6 parts of chlorotrimethylsilane. The whole was stirred first for 2 hours at room temperature and further for 2 hours at 80° C. After cooling, 10.1 parts of 2-bromoethanamine hydrobromide were added and stirring was continued for 1 hour. The resulting solution was added to a stirred mixture of 9.2 parts of a sodium hydride dispersion 50% and 45 parts of N,N-dimethylformamide. After stirring for 2 hours at room temperature, 6.15 parts of 1-bromopropane were added dropwise. Upon completion, stirring was continued overnight at room temperature. The reaction mixture was poured into water. The precipitated product was filtered off and crystallized from 2-propanol, yielding 5.6 parts (33.1%) of 1-[4-[4-(4-methoxy-3,5-dimethylphenyl)-1-piperazinyl]phenyl]- 3-propyl-2-imidazolidinone (int. 16).

reactant | phenyl [4-[4-(4-methoxy-3,5-dimethylphenyl)-1-piperazinyl]phenyl]carbamate | COC1=C(C=C(C=C1C)N1CCN(CC1)C1=CC=C(C=C1)NC(OC1=CC=CC=C1)=O)C | C26H29N3O3
reactant | chlorotrimethylsilane | Cl[Si](C)(C)C | C3H9ClSi
reactant | 2-bromoethanamine hydrobromide | Br.BrCCN
reactant | sodium hydride | [H-].[Na+]
reactant | 1-bromopropane | BrCCC | C3H7Br
solvent | water | O | H2O
solvent | N,N-dimethylformamide | CN(C=O)C | C3H7NO
solvent | N,N-diethylethanamine | C(C)N(CC)CC | C6H15N
product | 1-[4-[4-(4-methoxy-3,5-dimethylphenyl)-1-piperazinyl]phenyl]- 3-propyl-2-imidazolidinone | 33.1% | COC1=C(C=C(C=C1C)N1CCN(CC1)C1=CC=C(C=C1)N1C(N(CC1)CCC)=O)C | C25H34N4O2
